US07122580B2
To 3.0 g (2.5 mmol) of above resin-bound 2-amino-5-(4-trifluoromethyl-phenoxy)-phenol were added 1.62 g (7.5 mmol) of 4-bromophenylacetic acid, 7.5 mL (7.5 mmol) of 1.0 M DIC in DMF, 7.5 mL (7.5 mmol) of 1.0 M HOBt in DMF, and a catalytic amount of DMAP. The resulting mixture was left on a shaker overnight. The resin was washed with DMF, MeOH, DCM three times of each to give resin-bound 2-(4-bromo-phenyl)-N-[2-Hydroxy-4-(4-trifluoromethyl-phenoxy)-phenyl]-acetamide.

reactant | 2-amino-5-(4-trifluoromethyl-phenoxy)-phenol | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)O | C13H10F3NO2
reactant | 4-bromophenylacetic acid | 7.5 mmol, 1.62 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | DIC | 7.5 mmol, 1.0 M, 7.5 mL | CC(N=C=NC(C)C)C | C7H14N2
reactant | HOBt | 7.5 mmol, 1.0 M, 7.5 mL | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(4-bromo-phenyl)-N-[2-Hydroxy-4-(4-trifluoromethyl-phenoxy)-phenyl]-acetamide | BrC1=CC=C(C=C1)CC(=O)NC1=C(C=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)O | C21H15BrF3NO3
